US06121285
1-Benzyloxycarbonyl-4-(R)-(1-ethoxycarbonylcyclopropyl)-3,3-difluoropyrrolidine
4-(R)-(1-Ethoxycarbonylcyclopropyl)-3,3-difluoro-1-[1-(S)-phenylethyl]pyrrolidine(2.536 g, 7.842 mmol) was dissolved in dry dichloromethane (80 ml), and benzyl chloroformate (2.80 ml, 19.6 mmol) was added dropwise to the thus prepared solution which was cooled in an ice bath. The reaction solution was stirred at room temperature for 44 hours and then dichloromethane was evaporated under reduced pressure. Thereafter, the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=4:1, to thereby obtain 2.294 g (82.8%) of the title compound as a colorless oil.

reactant | 4-(R)-(1-Ethoxycarbonylcyclopropyl)-3,3-difluoro-1-[1-(S)-phenylethyl]pyrrolidine | 7.842 mmol, 2.536 g | C(C)OC(=O)C1(CC1)[C@H]1C(CN(C1)[C@@H](C)C1=CC=CC=C1)(F)F | C18H23F2NO2
reactant | benzyl chloroformate | 19.6 mmol, 2.80 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-4-(R)-(1-ethoxycarbonylcyclopropyl)-3,3-difluoropyrrolidine | 2.294 g, 82.8% | C(C1=CC=CC=C1)OC(=O)N1CC([C@@H](C1)C1(CC1)C(=O)OCC)(F)F | C18H21F2NO4
